US09029544B2
(3R,9S)-4-(1-Methoxyethyl)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-9-(2,3,3-trimethylbutan-2-yloxy)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]
70 mg 1-((3R,9S)-7,7-Dimethyl-3-(4-(trifluoromethyl)phenyl)-9-(2,3,3-trimethylbutan-2-yloxy)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)ethanol are dissolved in 1.5 ml tetrahydrofurane. 27 mg Potassium-tert.-butylate are added, the mixture is stirred for 5 minutes and the 11 μl methyliodide are added. The mixture is stirred for 20 minutes and then partitioned between 0.1 M hydrochloric acid and dichloromethane. The aqueous phase is extracted with dichloromethane and the combined organic phases are dried with sodium sulphate. The solvents are evaporated in vacuo and the residue is purified by preparative HPLC (Gemini C18, water/methanol/ammonia 90:10:0.1 to 0:100:0.1).

reactant | 1-((3R,9S)-7,7-Dimethyl-3-(4-(trifluoromethyl)phenyl)-9-(2,3,3-trimethylbutan-2-yloxy)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)ethanol | 70 mg | CC1(C[C@@H](C=2C3=C(C(=NC2C1)C(C)O)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F)OC(C)(C(C)(C)C)C)C | C33H44F3NO4
reactant | methyliodide | 11 μl | CI | CH3I
solvent | tetrahydrofurane | 1.5 ml | O1CCCC1 | C4H8O
product | (3R,9S)-4-(1-Methoxyethyl)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-9-(2,3,3-trimethylbutan-2-yloxy)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | COC(C)C1=NC=2CC(C[C@@H](C2C2=C1[C@H](OC21CCOCC1)C1=CC=C(C=C1)C(F)(F)F)OC(C)(C(C)(C)C)C)(C)C | C34H46F3NO4
